US06046235
(2R)-2-[(2S)-3-(Benzoylthio)-2-methylpropionylamino]-3-(4-methylbenzylthio)propionic acid methylamide (compound No. 3-1)
4 N hydrogen chloride/dioxane (1.5 ml) is added to (2R)-2-(tert-butoxycarbonylamino)-3-(4-methylbenzylthio)propionic acid methylamide (reference compound No. 4-1, 200 mg), and the mixture is stirred at room temperature for one hour. The reaction mixture is concentrated under reduced pressure, and the obtained residue is dissolved in methylene chloride (5 ml). To the solution are added N-methylmorpholine (0.119 ml), 1-hydroxybenzotriazole (109 mg), (2S)-3-(benzoylthio)-2-methylpropionic acid (182 mg), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (135 mg) and N-methylmorpholine (0.077 ml) successively under ice-cooling, and the mixture is stirred overnight at room temperature. A 5% aqueous sodium hydrogencarbonate solution is added to the system of reaction, and the whole is extracted with ethyl acetate. The organic layer is washed with a 5% aqueous sodium hydrogencarbonate solution and a saturated sodium chloride solution successively, dried over magnesium sulfate, and concentrated under reduced pressure. The obtained residue is purified by silica gel column chromatography to give the titled compound.

reactant | hydrogen chloride dioxane | 4 N, 1.5 ml | Cl.O1CCOCC1
reactant | (2R)-2-(tert-butoxycarbonylamino)-3-(4-methylbenzylthio)propionic acid methylamide | 200 mg | CNC([C@H](CSCC1=CC=C(C=C1)C)NC(=O)OC(C)(C)C)=O | C17H26N2O3S
product | (2R)-2-[(2S)-3-(Benzoylthio)-2-methylpropionylamino]-3-(4-methylbenzylthio)propionic acid methylamide | CNC([C@H](CSCC1=CC=C(C=C1)C)NC([C@@H](CSC(C1=CC=CC=C1)=O)C)=O)=O | C23H28N2O3S2
